US04226775
1-(2-Acetylthio-3-benzoylpropionyl)-L-proline
A mixture of 2.57 g. of 1-(3-benzoylacryloyl)-L-proline, 1.42 ml. of thioacetic acid and 30 ml. of carbon tetrachloride is stirred for one hour and then concentrated in vacuo to an amber gum. This gum is dissolved in dichloromethane and the solvent removed in vacuo several times giving the desired product as an off-white glass.

reactant | 1-(3-benzoylacryloyl)-L-proline | C(C1=CC=CC=C1)(=O)C=CC(=O)N1[C@H](C(=O)O)CCC1 | C15H15NO4
reactant | thioacetic acid | C(C)(=S)O | C2H4OS
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(2-Acetylthio-3-benzoylpropionyl)-L-proline | C(C)(=O)SC(C(=O)N1[C@H](C(=O)O)CCC1)CC(C1=CC=CC=C1)=O | C17H19NO5S
